US06953857B2
(ii) 4-Chloro-3-hydroxy-5-methoxy-benzoic acid methyl ester
3.9 g (19.3 mmol) of 4-Chloro-3,5-dihydroxy-benzoic acid methyl ester was dissolved in 250 ml of DMF and treated at 0° C. with 8.6 g (62 mmol) of potassium carbonate and 2.72 g (19.2 mmol) of iodomethane. The reaction solution was stirred at RT for 16 h. The solvent was removed under reduced pressure, the residue was taken-up in ethyl acetate and this solution was washed three times with water and twice with saturated aqueous sodium chloride. The organic phase was dried with sodium sulphate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with n-heptane/ethyl acetate (5/1).

reactant | 4-Chloro-3,5-dihydroxy-benzoic acid methyl ester | 19.3 mmol, 3.9 g | COC(C1=CC(=C(C(=C1)O)Cl)O)=O | C8H7ClO4
reactant | potassium carbonate | 62 mmol, 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 19.2 mmol, 2.72 g | IC | CH3I
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-3-hydroxy-5-methoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)Cl)O)=O | C9H9ClO4
